US05334740
One gram of 4,5- (dimethylmethylenedioxy) -3-(1-ethoxyethoxy)-6-heptenal oxime was dissolved in 15 ml of methylene chloride, and 0.2 ml of triethylamine was added at 0° C. Then, 8 ml of a 10% sodium hypochlorite aqueous solution was added, and the mixture was stirred at 0° C. for 11 hours. The reaction mixture was diluted with ethyl ether, and washed with a sodium hydrogen carbonate aqueous solution and a saturated sodium chloride aqueous solution in sequence. The organic layer was dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography to give 530 mg of 4,5-(dimethylmethylenedioxy)-6-(1-ethoxyethoxy)-3,3a,4,5,6,7-hexahydro-2,1-benzoisooxazole having the following properties.

reactant | 4,5- (dimethylmethylenedioxy) -3-(1-ethoxyethoxy)-6-heptenal oxime | One gram | CC1(OC(C(CC=NO)OC(C)OCC)C(C=C)O1)C | C14H25NO5
reactant | triethylamine | 0.2 ml | C(C)N(CC)CC | C6H15N
reactant | sodium hypochlorite | Cl[O-].[Na+]
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl ether | C(C)OCC | C4H10O
product | 4,5-(dimethylmethylenedioxy)-6-(1-ethoxyethoxy)-3,3a,4,5,6,7-hexahydro-2,1-benzoisooxazole | 530 mg | CC1(OC2C(C(CC=3C2CON3)OC(C)OCC)O1)C | C14H23NO5
